Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Admitted for scheduled induction of labor
 
Major Surgical or Invasive Procedure:
Vaginal delivery
Retained placenta with manual extraction
Ultrasound guided D&C
Blood transfusion

 
History of Present Illness:
Ms. ___ is a ___ G1, P0 who was admitted to labor and 
delivery at 38 weeks for an induction of labor for IUGR and 
gestational hypertension.
 

 
Past Medical History:
Depression/Anxiety
 
Social History:
Lives with husband
___ etoh/drugs/tob
 
Physical Exam:
VS: BP 120/90
Cardiac: RRR
Pulm: CTA
Abdomen: gravid
Ext: NT
SVE: ___
 
Pertinent Results:
___ 09:33PM   WBC-25.0*# RBC-3.28* HGB-10.3* HCT-30.5* 
MCV-93 MCH-31.4 MCHC-33.8 RDW-14.2
___ 09:33PM   PLT COUNT-303
___ 09:37AM   CREAT-0.6
___ 09:37AM   ALT(SGPT)-18
___ 09:37AM   URIC ACID-6.5*
___ 09:37AM   WBC-9.6 RBC-4.06* HGB-12.3 HCT-36.4 MCV-90 
MCH-30.4 MCHC-33.9 RDW-14.3
___ 06:45AM BLOOD WBC-13.0* RBC-2.46* Hgb-7.5*# Hct-21.6*# 
MCV-88 MCH-30.5 MCHC-34.7 RDW-14.8 Plt ___
___ 07:00AM BLOOD WBC-12.5* RBC-2.72* Hgb-8.5* Hct-25.0* 
MCV-92 MCH-31.1 MCHC-33.8 RDW-15.0 Plt ___
___ 09:33PM BLOOD WBC-25.0*# RBC-3.28* Hgb-10.3* Hct-30.5* 
MCV-93 MCH-31.4 MCHC-33.8 RDW-14.2 Plt ___
 
Brief Hospital Course:
Ms. ___ was induced with Pitocin and ultimately made it to 
fully and pushing.  She finally delivered a live born female 
vaginally in the labor and delivery room on ___. Her 
secondary degree vaginal laceration was repaired in the usual 
fashion, while waiting for the placenta to deliver. However, 
after over 40 minutes with both gentle and firm traction, the 
placenta had not delivered and had made no further signs of 
separation.  In the room, an attempt at manual extraction was 
made with her epidural anesthesia.  Two passes with Dr. 
___ were made and did not remove the placenta.  
Then, the patient's epidural was bolused up and she received IV 
fentanyl to make her more comfortable.  Dr. ___ was able 
to remove large segments of the placenta.  However, she was not 
able to remove it all and the decision was made to proceed with 
D and C in the OR. The patient was in stable condition prior to 
transfer to the OR with an approximately 500 mL EBL in the labor 
and delivery room. The procedure was uncomplicated, see 
operative report for further details. A further estimated 500cc 
of blood was lost. She was given pitocin IV and 1000mcg cytotec 
PR. She was treated with kefzol 2 g IV for 3 doses for infection 
prophylaxis given the procedures and manipulations she 
underwent. Her pre-operative hematocrit was 36.4. Immediately 
following the procedure, it was 30.5. The following morning it 
was 21.6. The decision was made to transfuse 1 unit pRBCs due to 
patient's symptomatic acute blood loss anemia. After 
transfusion, her hematocrit rose appropriately to 25. The rest 
of her postpartum course was uneventful and she was discahrged 
to home in good condition on ___.

 
Medications on Admission:
Zoloft
Prenatal vitamin
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for Constipation.
Disp:*30 Capsule(s)* Refills:*0*
2. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for Pain.
Disp:*30 Tablet(s)* Refills:*0*
3. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain.
Disp:*40 Tablet(s)* Refills:*0*
4. breast pump  Sig: One (1)   q2h: for poor latch.
Disp:*1 device* Refills:*0*
5. Zoloft

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Vaginal delivery
Retained placenta with manual extraction
Ultrasound guided D&C
blood loss anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
see nursing sheets
 
Followup Instructions:
___